2130-08-02 18:45:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-8-1**] 01:30 PM
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-1**] 05:46 PM
   Levofloxacin - [**2130-8-2**] 06:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-8-1**] 08:00 PM
   Lorazepam (Ativan) - [**2130-8-1**] 09:00 PM
   Furosemide (Lasix) - [**2130-8-2**] 11:49 AM
   Haloperidol (Haldol) - [**2130-8-2**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Edema
   Nutritional Support: Tube feeds
   Respiratory: intubated
   Integumentary (skin): No(t) Rash
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2130-8-2**] 06:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 71 (61 - 88) bpm
   BP: 120/67(70) {103/49(62) - 166/90(101)} mmHg
   RR: 11 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 73.1 kg
   Height: 62 Inch
    CVP: 6 (2 - 10)mmHg
   Total In:
                                                                  1,809 mL
                                                                  1,309 mL
   PO:
   TF:
                                                                    280 mL
                                                                    638 mL
   IVF:
                                                                    664 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                  1,060 mL
   Urine:
                                                                  2,405 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -596 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 718 (475 - 718) mL
   PS : 12 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.44/38/151/24/2
   Ve: 3.5 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   279 K/uL
   9.2 g/dL
   153 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.4 mEq/L
   25 mg/dL
   107 mEq/L
   136 mEq/L
   25.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-7-30**]  04:01 PM
                             [**2130-7-30**]  08:02 PM
                             [**2130-7-31**]  02:45 AM
                             [**2130-7-31**]  03:12 AM
                             [**2130-7-31**]  01:02 PM
                             [**2130-7-31**]  02:22 PM
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
   WBC
   9.7
   13.8
   10.4
   Hct
   27.0
   26.7
   27.4
   28.3
   25.8
   Plt
   220
   267
   279
   Cr
   1.2
   1.3
   1.2
   TCO2
   23
   23
   23
   25
   25
   27
   Glucose
   139
   183
   153
   Other labs: PT / PTT / INR:13.0/39.0/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR8/6
   Portable AP chest radiograph was compared to [**2130-8-1**].
   The ET tube tip is 5 cm above the carina. The right internal jugular
   line tip
   is in the proximal right atrium, unchanged in position. The NG tube tip
   is in
   the stomach. The cardiomediastinal silhouette is unchanged including
   mild
   cardiomegaly. The left retrocardiac atelectasis and bilateral perihilar
   opacities consistent with known pneumonia. Small bilateral pleural
   effusions
   cannot be excluded.
   IMPRESSION: No significant interval change.
   Microbiology: [**2130-8-1**] 3:11 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2130-8-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN
   Assessment and Plan
   [**Known lastname 4000**], [**Known firstname **]  [**Numeric Identifier 4001**]
   .
   MICU INTERN PROGRESS NOTE
   [**2130-8-1**]
   .
   A/P: 73yo Russian speaking woman with h/o DM2, HTN, hyperlipidemia,
   hypothyroidism and gastroparesis who initially presented with  N/V and
   chest discomfort & subsequently found to be found to be hyponatremic
   who subsequently became acutely tachypneic and coded in the setting of
   a seizure and AMI; now transferred to the ICU.  Per patient's friend,
   had lost weight and having trouble for 6 months before with decreased
   appetite.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Initially unclear etiology
   but pt severely tachypnic causing marked respiratory alkalosis.
   Inciting event unclear but may be related to an ischemic event vs PE vs
   salicylate toxicity. Now seems to be an aspiration pna type picture and
   pulm edema.
   -still intubated bc failed extubation yesterday for upper airway
   inflammation from ET tube trauma-will give her few days to heal and try
   extubation on Monday. Hopefully son will be able to be here for that.
   Will try extubation that day with Cook Cath valve
   -consider ENT consult once pt intubated
   - Sputum showed moderate strep pneumo-pan sensitive-Continue Levo and
   Vanc
   - follow CXR-no interval change
   -for agitation, start on regular dose of haldol 2.5mg q6h and
   supplement benzos for prn agitation
   -continue lasix as needed for diuresis
   - Monitor serial ABGs
   .
Pneumonia: Pt had mild rising leukocytosis; currently has been
   febrile. CXR consistant with aspiration pna especially given history of
   seizure and code
   -white count down  10.4
   -F/u blood, sputum, urine cultures-none positive so far
   -continue Abx of Levaquin/Vanc
   -Repeat CXR
   .
 HEART FAILURE (CHF), SYSTOLIC, ACUTE, HYPERTENSION, BENIGN Pt had
   initial presentation of chest discomfort.  STE in I, AVL and STD in II,
   III and AVF.  Stat echo shows large anterior wall hypokinesis c/w
   ischemic event.  Troponin peaked at 0.71 on [**7-26**]
   - cardiology following, deferred on cath [**1-28**] concerns of infection
   - ECHO as above-showed MR, may be more significant than originally
   thought, contributing to her CHF
   - continue plavix
   - Atorvastatin 80 and asa 325mg daily
   - Increase BB to metoprolol 50mg QID, monitor for hypotension -may need
   to add another [**Doctor Last Name **]
   - f/u Lipid panel pending
   - Hold lisinopril as per renal for ARF
   .
Hypotension:  Resolving, etiology unknown either sepsis picutre vs
   cardiogenic shock and decreased EF
   -transfuse as needed
   -consider GI involvement after getting records from [**Hospital1 1817**]
   -Off levophed
   -continue to monitor
   .
Anemia- Hct 30s early in stay, went down to 24, this am down to 22.9.
   On Heparin for MI.  No source identified.  Groin site shows no evidence
   of hematoma but etiologies could be GI vs retroperitoneal bleed
   considering she got femoral line during code. Now with decrease in HCT
   of 22.9, then went back to 28.5 down, repeat 26.7 and up to 27.4 which
   seems stable.
   -Follow Hct continue to transfuse as needed
   -Guiac stools neg but will repeat
   -guiac NG tube fluids neg
   -consider EGD or colonscopy considering hx of diverticulosis and FamHx
   GI malignancy
   .
 SEIZURE, WITH STATUS EPILEPTICUS - Most likely pt seized in the
   setting of marked hyponatremia in addition to her profound alkalosis.
   An ABG was done when markedly tachypneic and pH was 7.7.  CT head was
   unremarkable.
   -no repeat seizure activity with corrected Na
   -Neuro following
   .
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)Resolved. Unclear etiology;
   pt may have been hyponatremic in the setting of poor PO intake in
   addition to her HCTZ; however pts Na was not responsive to fluids and
   Urine Na high; making concern for SIADH. CT head without evidence of
   tumor.  Pt not on any psych meds/SSRIs
   - Hold HCTZ
   - Renal signed off
   - follow urine electrolytes-try to establish etiology for ARF, Fena 1%
   - [**Month (only) 60**] need additional imaging to look for other possible tumor or cause
   of SIADH
   .
 Metabolic Acidosis-Pt initially presented with metabolic acidosis &
   AG of 18 on admission and post-code her lactate 11.4. Improved, now no
   gap.
   -If fluids needed, avoid more Cl so use LR or blood or NaBicarb
   .
   #
 Hypothyroidism: TSH wnl, continue outpatient dose of levothyroxine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-8-2**] 03:48 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2130-08-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-8-2**] 09:30 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2130-8-2**]
   09:30 AM
   pt aggitated-attempt to redress ALine-kinked and [**Name8 (MD) **] MD no exchange
   over wire and will replace later, NBP stated, FEn anf Versed gtt inc
 EKG - At [**2130-8-3**] 05:00 AM
   routine qtc check
 Periods of apnea after haldol, but on backup rate on MMVP
 labile BP
 C/o of puritic skin on back
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-8-2**] 06:00 PM
   Vancomycin - [**2130-8-2**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-8-2**] 11:49 AM
   Famotidine (Pepcid) - [**2130-8-2**] 08:00 PM
   Haloperidol (Haldol) - [**2130-8-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt intubated, unable to assess complete ROS, pt
   denies pain but keeps pointing at ET tube
   Flowsheet Data as of  [**2130-8-3**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 64 (61 - 88) bpm
   BP: 127/64(79) {99/49(62) - 166/64(101)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 73.1 kg
   Height: 62 Inch
    CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  1,892 mL
                                                                    508 mL
   PO:
   TF:
                                                                    840 mL
                                                                    242 mL
   IVF:
                                                                    742 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    465 mL
   Urine:
                                                                  1,440 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    452 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 576 (546 - 718) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.45/39/82.[**Numeric Identifier 96**]/25/2
   Ve: 5.7 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Gen: NAD
   CV: s1s2+, RRR, no M/R/G, no ectopy
   Pulm: CTA B/L
   Abd: +BS, soft, nt/nd, no HSM
   Skin: wound on right upper lip, otherwise WNL
   Ext: no c/c/e, 2+pedal pulses B/L
   Neuro/Psy: intubated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   325 K/uL
   9.8 g/dL
   156 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   29 mg/dL
   102 mEq/L
   136 mEq/L
   28.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2130-7-31**]  03:12 AM
                             [**2130-7-31**]  01:02 PM
                             [**2130-7-31**]  02:22 PM
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
                             [**2130-8-2**]  06:05 PM
                             [**2130-8-3**]  03:35 AM
                             [**2130-8-3**]  05:32 AM
   WBC
   13.8
   10.4
   10.0
   Hct
   28.3
   25.8
   26.6
   28.1
   Plt
   [**Telephone/Fax (3) 4011**]
   Cr
   1.3
   1.2
   1.2
   TCO2
   23
   23
   23
   25
   25
   27
   28
   Glucose
   183
   153
   156
   Other labs: PT / PTT / INR:12.6/39.8/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   CXR [**8-3**]:Unchanged retrocardiac consolidation and effusion, likely
   pneumonia. Slightly
   progressed right infrahilar consolidation. No pulmonary edema.
   Micro [**8-1**], repeat sputum culture with no organisms
   Assessment and Plan
   A/P: 73yo Russian speaking woman with h/o DM2, HTN, hyperlipidemia,
   hypothyroidism and gastroparesis who initially presented with  N/V and
   chest discomfort & subsequently found to be found to be hyponatremic
   who subsequently became acutely tachypneic and coded in the setting of
   a seizure and AMI; now transferred to the ICU.  Per patient's friend,
   had lost weight and having trouble for 6 months before with decreased
   appetite.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Pt failed 2^nd trial of
   extubation due to upper airway edema, likely aspirated again as pt has
   had increased secretions overnight.  Component can be CHF and pulm
   edema.
   -still intubated bc fwill give her few days to heal and try extubation
   on Monday. Hopefully son will be able to be here for that. Will try
   extubation that day with Cook Cath valve. Now having episodes of apnea.
   -pt having periodic breathing could be central due to hypocapnia vs
   CHF, decreaseing resp drive, benzos could be contributing, pt on MMV
   for backup rate but entire process is likely benign and being
   exacerbated by ventilator
   -consider ENT consult once pt extubated
   - Sputum showed moderate strep pneumo-pan sensitive-Continue Levo and
   Vanc
   -repeat sputum culture
   - follow CXR-no interval change
   -for agitation, start on regular dose of haldol 2.5mg q6h and
   supplement benzos for prn agitation
   -continue lasix as needed for diuresis
   - Monitor serial ABGs
   .
Pneumonia: Pt had mild rising leukocytosis; currently has been
   febrile. CXR consistant with aspiration pna especially given history of
   seizure and code
   -white count stable
   -F/u blood, sputum, urine cultures-none positive so far
   -continue Abx of Levaquin/Vanc
   -Repeat CXR
   .
 HEART FAILURE (CHF), SYSTOLIC, ACUTE, HYPERTENSION, BENIGN Pt had
   initial presentation of chest discomfort.  STE in I, AVL and STD in II,
   III and AVF.  Stat echo shows large anterior wall hypokinesis c/w
   ischemic event.  Troponin peaked at 0.71 on [**7-26**]
   - cardiology following, deferred on cath [**1-28**] concerns of infection-plus
   pt has declined cath in past
   - ECHO as above-showed MR, may be more significant than originally
   thought, contributing to her CHF
   - highly labile BP, hypotension seems to taper UO
   -continue plavix
   - Atorvastatin 80 and asa 325mg daily
   - on metoprolol 50mg QID but held for low BP
   - f/u Lipid panel pending
   - Hold lisinopril as per renal for ARF
   .
Hypotension:  Resolving, etiology unknown either sepsis picutre vs
   cardiogenic shock and decreased EF
   -transfuse as needed
   -consider GI involvement after getting records from [**Hospital1 1817**]
   -Off levophed
   -continue to monitor
   .
Anemia- Hct stable now.
   -Follow Hct continue to transfuse as needed
   -Guiac stools neg but will repeat
   -guiac NG tube fluids neg
   -consider EGD or colonscopy considering hx of diverticulosis and FamHx
   GI malignancy
   .
 SEIZURE, WITH STATUS EPILEPTICUS - Most likely pt seized in the
   setting of marked hyponatremia in addition to her profound alkalosis.
   An ABG was done when markedly tachypneic and pH was 7.7.  CT head was
   unremarkable.
   -no repeat seizure activity with corrected Na
   -Neuro following
   .
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)Resolved. Unclear etiology;
   pt may have been hyponatremic in the setting of poor PO intake in
   addition to her HCTZ; however pts Na was not responsive to fluids and
   Urine Na high; making concern for SIADH. CT head without evidence of
   tumor.  Pt not on any psych meds/SSRIs
   - Hold HCTZ
   - Renal signed off
   - follow urine electrolytes-try to establish etiology for ARF, Fena 1%
   - [**Month (only) 60**] need additional imaging to look for other possible tumor or cause
   of SIADH
   .
   #
 Hypothyroidism: TSH wnl, continue outpatient dose of levothyroxine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-8-2**] 03:48 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2130-08-04 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increased senna, added lactulose enema to bowel regimen, now stooling
   but giuac pos
   - sedation was weaned yesterday and lidocaine patch started for chest
   bruising. Throughout night pt agitated. Pulled OG out dispite sedation,
   4 point, mitt restraints. Sedation increased. Gave additional 2.5mg  IV
   haldol
   -Will need IP consult or anesthesia for laryngeal edema when patient is
   extubated (Plan for Monday ([**8-7**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-8-2**] 06:00 PM
   Vancomycin - [**2130-8-3**] 08:31 PM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-8-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-3**] 08:31 PM
   Haloperidol (Haldol) - [**2130-8-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 73 (64 - 79) bpm
   BP: 144/67(86) {90/48(57) - 171/95(102)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 73.1 kg
   Height: 62 Inch
    CVP: 5 (4 - 11)mmHg
   Total In:
                                                                  2,000 mL
                                                                    276 mL
   PO:
   TF:
                                                                    841 mL
                                                                    176 mL
   IVF:
                                                                    529 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                  1,035 mL
   Urine:
                                                                  2,540 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -759 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 760 (590 - 760) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.45/39/83
   Ve: 8.9 L/min
   Physical Examination
   GEN: Sedated
   HEENT: Intubated, eyes closed
   Chest: CTAB
   CV: RRR
   Abd: soft, ND
   Ext: trace edema
   Skin: Warm
   Labs / Radiology
   378 K/uL
   10.4 g/dL
   147 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.4 mEq/L
   26 mg/dL
   105 mEq/L
   139 mEq/L
   29.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2130-7-31**]  01:02 PM
                             [**2130-7-31**]  02:22 PM
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
                             [**2130-8-2**]  06:05 PM
                             [**2130-8-3**]  03:35 AM
                             [**2130-8-3**]  05:32 AM
                             [**2130-8-4**]  03:06 AM
   WBC
   13.8
   10.4
   10.0
   9.1
   Hct
   28.3
   25.8
   26.6
   28.1
   29.6
   Plt
   [**Telephone/Fax (3) 4051**]78
   Cr
   1.3
   1.2
   1.2
   1.1
   TCO2
   23
   23
   25
   25
   27
   28
   Glucose
   183
   153
   156
   147
   Other labs: PT / PTT / INR:13.0/35.4/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: ETT appears too high, approx 6.5 cm above the carina per
   my read.  Continued R infrahilar infiltrate.
   Lipids: HDL 64, LDL 64, Total cholesterol 143
   Assessment and Plan
   A/P: 73yo Russian speaking woman with h/o DM2, HTN, hyperlipidemia,
   hypothyroidism and gastroparesis who initially presented with  N/V and
   chest discomfort & subsequently found to be found to be hyponatremic
   who subsequently became acutely tachypneic and coded in the setting of
   a seizure and AMI; now transferred to the ICU.  Per patient's friend,
   had lost weight and having trouble for 6 months before with decreased
   appetite.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Initially unclear etiology
   but pt severely tachypnic causing marked respiratory alkalosis.
   Inciting event unclear but may be related to an ischemic event vs PE vs
   salicylate toxicity. Now seems to be an aspiration pna type picture and
   pulm edema.
   - Advance tube approx 3-4 cm.
   -still intubated bc failed extubation yesterday for upper airway
   inflammation from ET tube trauma-will give her few days to heal and try
   extubation on Monday. Hopefully son will be able to be here for that.
   Will try extubation that day with Cook Cath valve
   -IP consult prior to extubation
   - Sputum showed moderate strep pneumo-pan sensitive-Continue Levo and
   Vanc
   - follow CXR-no interval change except as noted above
   -for agitation, start on regular dose of haldol 2.5mg q6h and
   supplement benzos or haldol for prn agitation
   -continue lasix as needed for diuresis
   - Monitor serial ABGs
   .
Pneumonia: Pt had mild rising leukocytosis; currently has been
   febrile. CXR consistant with aspiration pna especially given history of
   seizure and code
   -white count down  10.4
   -F/u blood, sputum, urine cultures-none positive so far
   -continue Abx of Levaquin/Vanc
   -Repeat CXR
   .
 HEART FAILURE (CHF), SYSTOLIC, ACUTE, HYPERTENSION, BENIGN Pt had
   initial presentation of chest discomfort.  STE in I, AVL and STD in II,
   III and AVF.  Stat echo shows large anterior wall hypokinesis c/w
   ischemic event.  Troponin peaked at 0.71 on [**7-26**]
   - cardiology following, deferred on cath [**1-28**] concerns of infection
   - ECHO as above-showed MR, may be more significant than originally
   thought, contributing to her CHF
   - continue plavix, Atorvastatin 80 and asa 325mg daily
   - Increase BB to metoprolol 50mg QID, monitor for hypotension -may need
   to add another [**Doctor Last Name **]
   - Lipid panel resulted (HDL 64, LDL 64, Total cholesterol 143)
   - Restart Lisinopril at 5 mg as Cr is normalizing, monitor BP
   .
Hypotension:  Resolving, etiology unknown either sepsis picture vs
   cardiogenic shock and decreased EF
   -transfuse as needed
   -consider GI involvement after getting records from [**Hospital1 1817**]
   -continue to monitor
Anemia- Hct 30s early in stay, went down to 24, this am down to 22.9.
   On Heparin for MI.  No source identified.  Groin site shows no evidence
   of hematoma but etiologies could be GI vs retroperitoneal bleed
   considering she got femoral line during code. Now with decrease in HCT
   of 22.9, then went back to 28.5 down, repeat 26.7 and up to 27.4 which
   seems stable.
   -Follow Hct continue to transfuse as needed
   - Guiac POSITIVE stool, continue to monitor
   -guiac NG tube fluids neg
   -consider EGD or colonscopy considering hx of diverticulosis and FamHx
   GI malignancy, will consult if Hct continues to drop
 SEIZURE, WITH STATUS EPILEPTICUS - Most likely pt seized in the
   setting of marked hyponatremia in addition to her profound alkalosis.
   An ABG was done when markedly tachypneic and pH was 7.7.  CT head was
   unremarkable.
   -no repeat seizure activity with corrected Na
   -Neuro following
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)Resolved. Unclear etiology;
   pt may have been hyponatremic in the setting of poor PO intake in
   addition to her HCTZ; however pts Na was not responsive to fluids and
   Urine Na high; making concern for SIADH. CT head without evidence of
   tumor.  Pt not on any psych meds/SSRIs
   - Hold HCTZ
   - Renal signed off
   - follow urine electrolytes-try to establish etiology for ARF, Fena 1%
   - [**Month (only) 60**] need additional imaging to look for other possible tumor or cause
   of SIADH in future
 Metabolic Acidosis-Pt initially presented with metabolic acidosis &
   AG of 18 on admission and post-code her lactate 11.4. Improved, now no
   gap.
   -If fluids needed, avoid more Cl so use LR or blood or NaBicarb
   #
 Hypothyroidism: TSH wnl, continue outpatient dose of levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  In ICU while intubated, will plan on extubation on Monday
   and reassess then.

2130-08-05 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2130-8-5**] 04:15 AM- eval QTc
   ETT tube advanced by respiratory
   Agitated overnight, rec'd Haldol 2.5 mg  x 1 and required 4-point
   restraints
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-8-4**] 06:00 PM
   Vancomycin - [**2130-8-4**] 08:45 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2130-8-4**] 10:00 AM
   Midazolam (Versed) - [**2130-8-4**] 06:50 PM
   Famotidine (Pepcid) - [**2130-8-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Per nurse, agitated over night and yesterday
   Flowsheet Data as of  [**2130-8-5**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 60 (59 - 92) bpm
   BP: 135/58(78) {93/45(56) - 187/85(113)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 73.1 kg
   Height: 62 Inch
    CVP: 2 (0 - 9)mmHg
   Total In:
                                                                  2,224 mL
                                                                    346 mL
   PO:
   TF:
                                                                    946 mL
                                                                    202 mL
   IVF:
                                                                    698 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    605 mL
   Urine:
                                                                  1,460 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    114 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 557 (449 - 638) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 6.2 L/min
   Physical Examination
   Gen: NAD, intubated
   Cardiac: s1s2+, RRR, no MRG, no ectopy
   Lungs: Coarse BS b/l
   Abd: +BS, nt/nd, soft, no HSM
   Ext: moves all 4, no c/c/e, peripheral pulses 2+ B/L
   Skin:  R upper lip sore from ET tube
   Neurologic: Responds to Verbal stimuli
   Labs / Radiology
   427 K/uL
   10.1 g/dL
   152 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   27 mg/dL
   104 mEq/L
   138 mEq/L
   29.4 %
   9.5 K/uL
        [image002.jpg]
                             [**2130-7-31**]  02:22 PM
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
                             [**2130-8-2**]  06:05 PM
                             [**2130-8-3**]  03:35 AM
                             [**2130-8-3**]  05:32 AM
                             [**2130-8-4**]  03:06 AM
                             [**2130-8-5**]  03:30 AM
   WBC
   13.8
   10.4
   10.0
   9.1
   9.5
   Hct
   28.3
   25.8
   26.6
   28.1
   29.6
   29.4
   Plt
   [**Telephone/Fax (3) 4051**]78
   427
   Cr
   1.3
   1.2
   1.2
   1.1
   1.1
   TCO2
   23
   25
   25
   27
   28
   Glucose
   183
   153
   156
   147
   152
   Other labs: PT / PTT / INR:13.0/43.4/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Vanco level 11.8
   CXR [**8-5**]:
   FINDINGS: In comparison with study of [**8-4**], the tip of the endotracheal
   tube
   lies approximately 5.3 cm above the carina. Nasogastric tube and right
   IJ
   catheter remain in place. Little overall change in the appearance of
   the
   heart and lungs, with opacification at the left base consistent with
   some
   combination of atelectasis, effusion, or even consolidation.
   A/P: 73yo Russian speaking woman with h/o DM2, HTN, hyperlipidemia,
   hypothyroidism and gastroparesis who initially presented with  N/V and
   chest discomfort & subsequently found to be found to be hyponatremic
   who subsequently became acutely tachypneic and coded in the setting of
   a seizure and AMI; now transferred to the ICU.  Per patient's friend,
   had lost weight and having trouble for 6 months before with decreased
   appetite.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Initially unclear etiology
   but pt severely tachypnic causing marked respiratory alkalosis.
   Inciting event unclear but may be related to an ischemic event vs PE vs
   salicylate toxicity. Now seems to be an aspiration pna type picture and
   pulm edema.
   -still intubated bc failed extubation  for upper airway inflammation
   from ET tube trauma-will give her few days to heal and try extubation
   on Monday. Hopefully son will be able to be here for that. Will try
   extubation that day with Cook Cath valve
   -IP consult prior to extubation
   -can also check cuff link and consider steroids prior to extubation for
   laryngeal edema
   - Sputum showed moderate strep pneumo-pan sensitive-Continue Levo and
   Vanc
   - follow CXR-no interval change except as noted above
   -for agitation, start on regular dose of haldol 2.5mg q6h and
   supplement benzos or haldol for prn agitation-follow EKG for prolonged
   QTc
   -continue lasix as needed for diuresis-keep I/Os even
   - Monitor serial ABGs
Pneumonia: Pt had mild rising leukocytosis; currently has been
   febrile. CXR consistent with aspiration pna especially given history of
   seizure and code
   -white count down  10.4
   -F/u blood, sputum, urine cultures-none positive so far
   -continue Abx of Levaquin/Vanc
   -Repeat CXR
   .
 HEART FAILURE (CHF), SYSTOLIC, ACUTE, HYPERTENSION, BENIGN Pt had
   initial presentation of chest discomfort.  STE in I, AVL and STD in II,
   III and AVF.  Stat echo shows large anterior wall hypokinesis c/w
   ischemic event.  Troponin peaked at 0.71 on [**7-26**]
   - cardiology following, deferred on cath [**1-28**] concerns of infection, pt
   has also refused cath in past so will need to discuss with her once
   extubated
   - ECHO as above-showed MR, may be more significant than originally
   thought, contributing to her CHF
   - continue plavix, Atorvastatin 80 and asa 325mg daily
   - Increase BB to metoprolol 50mg QID, monitor for hypotension -may need
   to add another [**Doctor Last Name **]
   - Lipid panel resulted (HDL 64, LDL 64, Total cholesterol 143)
   - Restart Lisinopril at 5 mg as Cr is normalizing, monitor BP
Hypotension:  Resolving, etiology unknown either sepsis picture vs
   cardiogenic shock and decreased EF
   -transfuse as needed
   -consider GI involvement after getting records from [**Hospital1 1817**]
   -continue to monitor
Anemia- Hct 30s early in stay, went down to 24, this am down to 22.9.
   On Heparin for MI.  No source identified.  Groin site shows no evidence
   of hematoma but etiologies could be GI vs retroperitoneal bleed
   considering she got femoral line during code. Now with decrease in HCT
   of 22.9, then went back to 28.5 down, repeat 26.7 and up to 27.4 which
   seems stable.
   -Follow Hct continue to transfuse as needed
   - Guiac POSITIVE stool, continue to monitor
   -guiac NG tube fluids neg
   -consider EGD or colonscopy considering hx of diverticulosis and FamHx
   GI malignancy, will consult if Hct continues to drop
 SEIZURE, WITH STATUS EPILEPTICUS - Most likely pt seized in the
   setting of marked hyponatremia in addition to her profound alkalosis.
   An ABG was done when markedly tachypneic and pH was 7.7.  CT head was
   unremarkable.
   -no repeat seizure activity with corrected Na
   -Neuro following
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)Resolved. Unclear etiology;
   pt may have been hyponatremic in the setting of poor PO intake in
   addition to her HCTZ; however pts Na was not responsive to fluids and
   Urine Na high; making concern for SIADH. CT head without evidence of
   tumor.  Pt not on any psych meds/SSRIs
   - Hold HCTZ
   - Renal signed off
   - follow urine electrolytes-try to establish etiology for ARF, Fena 1%
   - [**Month (only) 60**] need additional imaging to look for other possible tumor or cause
   of SIADH in future
 Metabolic Acidosis-Pt initially presented with metabolic acidosis &
   AG of 18 on admission and post-code her lactate 11.4. Improved, now no
   gap.
   -If fluids needed, avoid more Cl so use LR or blood or NaBicarb
   #
 Hypothyroidism: TSH wnl, continue outpatient dose of levothyroxine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-8-5**] 12:35 AM 35 mL/hour
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT: subq heparin, docusate
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until extubated

2130-08-05 11:34:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with persistent agitation over past 24 hours.
 EKG - At [**2130-8-5**] 04:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-8-4**] 06:00 PM
   Vancomycin - [**2130-8-4**] 08:45 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-8-4**] 08:00 PM
   Haloperidol (Haldol) - [**2130-8-5**] 02:15 AM
   Midazolam (Versed) - [**2130-8-5**] 07:35 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea, transient with agitation
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2130-8-5**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 65 (59 - 83) bpm
   BP: 123/53(71) {92/45(56) - 164/80(101)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 73.1 kg
   Height: 62 Inch
   CVP: 5 (0 - 9)mmHg
   Total In:
                                                                  2,224 mL
                                                                    741 mL
   PO:
   TF:
                                                                    946 mL
                                                                    380 mL
   IVF:
                                                                    698 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    940 mL
   Urine:
                                                                  1,460 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    114 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 482 (449 - 611) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   427 K/uL
   152 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   27 mg/dL
   104 mEq/L
   138 mEq/L
   29.4 %
   9.5 K/uL
        [image002.jpg]
                             [**2130-7-31**]  02:22 PM
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
                             [**2130-8-2**]  06:05 PM
                             [**2130-8-3**]  03:35 AM
                             [**2130-8-3**]  05:32 AM
                             [**2130-8-4**]  03:06 AM
                             [**2130-8-5**]  03:30 AM
   WBC
   13.8
   10.4
   10.0
   9.1
   9.5
   Hct
   28.3
   25.8
   26.6
   28.1
   29.6
   29.4
   Plt
   [**Telephone/Fax (3) 4051**]78
   427
   Cr
   1.3
   1.2
   1.2
   1.1
   1.1
   TCO2
   23
   25
   25
   27
   28
   Glucose
   183
   153
   156
   147
   152
   Other labs: PT / PTT / INR:13.0/43.4/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   CXR
Some persistent right LL infiltrate.  Lines in good position. (ETT
   5cm)
   Assessment and Plan
   73 yo female with h/o DM, HTN who was admitted with hyponatremia and
   seizure resulting in respiratory failure and now failed extubation x2
   (pulm edema and now with upper airway trauma and compromise limiting
   extubation on second time).  She has had reasonable improvement in
   overall ventilator status.  She has a favorable RSBI and suggestion of
   good Ve requirement but we have persistent concern for upper airway
   compromise in the setting of repeated re-intubation (last [**8-2**]).
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Vanco/Levo for pulmonary infiltate
   -Continue with PSV support and good tolerance seen with PSV 12/5
   -Will await Monday for repeat trial and favor extubation over cook
   catheter.
   -Will need translator present for support given native language
   -Will check cuff leak today and consider 24 hours of steroid dosing if
   no leak seen by tomorrow morning.
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -Plavix
   -Lopressor
   -Continue to monitor for change in ECG
   -Control of hypertension
   -Likely demand ischemia and goal for long term cath consideration and
   appreciate cardiology input.
   -Will need trial of medication dosing around the time of extubation
   consideration and PRN lopresso/MSO4/TNG may be needed.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   -EF with MR seen as significant.
   -Appears near euvolemic
   -Lasix as neede for maintenance of euvolemic status.
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-8-5**] 12:35 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-08-06 10:09:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Cuff leak present suggesting decrease in upper airway edema and
   obstruction.  ETT=6.[**Street Address(2) 4110**]
 EKG - At [**2130-8-5**] 10:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-8-5**] 06:21 PM
   Vancomycin - [**2130-8-5**] 08:45 PM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-8-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-5**] 08:00 PM
   Haloperidol (Haldol) - [**2130-8-6**] 04:00 AM
   Midazolam (Versed) - [**2130-8-6**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-6**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 61 (59 - 76) bpm
   BP: 98/38(52) {88/38(52) - 169/70(94)} mmHg
   RR: 20 (11 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 73.1 kg
   Height: 62 Inch
   CVP: 5 (1 - 7)mmHg
   Total In:
                                                                  1,988 mL
                                                                    608 mL
   PO:
   TF:
                                                                    829 mL
                                                                    343 mL
   IVF:
                                                                    754 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,347 mL
                                                                    565 mL
   Urine:
                                                                  1,345 mL
                                                                    565 mL
   NG:
                                                                      2 mL
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 455 (400 - 664) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   408 K/uL
   146 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   31 mg/dL
   105 mEq/L
   138 mEq/L
   27.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2130-8-1**]  03:16 AM
                             [**2130-8-1**]  10:31 AM
                             [**2130-8-1**]  05:00 PM
                             [**2130-8-2**]  03:38 AM
                             [**2130-8-2**]  06:05 PM
                             [**2130-8-3**]  03:35 AM
                             [**2130-8-3**]  05:32 AM
                             [**2130-8-4**]  03:06 AM
                             [**2130-8-5**]  03:30 AM
                             [**2130-8-6**]  03:15 AM
   WBC
   13.8
   10.4
   10.0
   9.1
   9.5
   12.0
   Hct
   28.3
   25.8
   26.6
   28.1
   29.6
   29.4
   27.8
   Plt
   [**Telephone/Fax (3) 4051**]78
   427
   408
   Cr
   1.3
   1.2
   1.2
   1.1
   1.1
   1.2
   TCO2
   25
   25
   27
   28
   Glucose
   183
   153
   156
   147
   152
   146
   Other labs: PT / PTT / INR:13.1/63.6/1.1, CK / CKMB /
   Troponin-T:616/13/0.19, ALT / AST:18/31, Alk Phos / T Bili:46/0.8,
   Differential-Neuts:91.4 %, Band:0.0 %, Lymph:4.9 %, Mono:3.6 %, Eos:0.1
   %, Lactic Acid:0.5 mmol/L, Albumin:3.5 g/dL, LDH:278 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Microbiology: Cultures NGTD for new
   CXR
Persisent LLL collapse suggested, minimal evidence
   Assessment and Plan
   73 yo female wtih DM and admit with respiratory failure attributable to
   both hydrostatic edema and subsequent pneumonia with failed extubation
   initially due to acute onset of pulmonary edema and on second failure
   due to upper airway obstruction.  She now has reasonable tolerance of
   decrease in PSV support and has suggestion on cuff leak examination of
   upper airway patency.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
Patient with good tolerance
   of PSV at this time and does have come component of increased
   resistance with ETT-6.[**Street Address(2) 4110**].  With adequate support hemodynamics
   and oxygenation appear well stabilized.   Will perform today
   SBT x 60 minutes with PSV=8 and no PEEP today
   -Monitor for Chest Pain, Tachycardia and Hypertension and ischemia as
   these variables will be the ones that are most likely to contribute to
   recurrent failure.
   -If hemodynamic instability is seen will have to consider advancement
   of cardiac regimen and/or use of IV agents around the time of
   extubation to allow successful extubation.
 TRACHEOBRONCHIAL DISEASE, OTHER (TRACHEA / BRONCHUS, INCLUDING
   INJURY)
   -Patient with improved upper airway obstruction by cuff leak but will
   have to be cautious with extubation.
 DELIRIUM / CONFUSION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Vanco/Levo
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ASA/Lipitor/Plavix
   Will re-consider catheterization with discussion with patient and
   cardiology following extubation
 HEART FAILURE (CHF), SYSTOLIC, ACUTE-
 HYPERTENSION, BENIGN
   -Lopressor 50mg qid
HR currently 63 bpm
   -Will add ACE-I for afterload reduction
BP currently 118/47
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-8-5**] 10:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-7-27**] 12:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill